US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (200 mg, 0.28 mmol) in THF (5 mL) was added 4-fluorophenylmagnesium bromide (4.30 mL, 1.0 M solution in THF, 4.30 mmol) at −30° C. The mixture was stirred under nitrogen for 30 min. The reaction mixture was quenched with water (0.30 mL), the reaction was brought to room temperature and pH was adjusted to 7 with 1N HCl. The reaction mixture was extracted with dichloromethane (3×50 mL). The combined organic phase was washed with brine, dried (Na2SO4), filtered and concentrated. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic) to afford (6R,6aS,14aR)-methyl 12-(4-fluorophenyl)-1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate as a diastereomer A (13 mg, 7%) and as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 7.58-7.55 (m, 2H), 7.53 (s, 1H), 7.13-7.07 (m, 2H), 6.60 (s, 1H), 5.69 (s, 1H), 4.93 (br s, 1H), 4.87 (s, 1H), 3.86 (s, 3H), 3.69-3.66 (m, 1H), 3.65 (s, 3H), 3.58-3.46 (m, 5H), 3.37-3.33 (m, 2H), 3.25-3.21 (m, 1H), 2.92 (t, J=9.0 Hz, 1H), 2.41 (s, 3H), 1.35-1.25 (m, 2H), 1.17 (d, J=6.5 Hz, 3H); MS (ESI+) m/z 794 (M+H); HPLC 95.4% (AUC), tR 13.49 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.28 mmol, 200 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | 4-fluorophenylmagnesium bromide | 4.30 mmol, 1.0 M, 4.30 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-methyl 12-(4-fluorophenyl)-1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | FC1=CC=C(C=C1)C1(C(=CC(C=2C(=C3C([C@@]4([C@@H](CC5=C([C@@]4(C(C3=CC12)=O)O)C(=C(C(=C5)C)C(=O)OC)O)O)OC)=O)O)=O)N[C@H]5O[C@H]([C@@H]([C@H]([C@H]5OC)O)OC)C)O | C40H40FNO15
